US06756378B2
A mixture of methyl 4-[1-tert-butoxycarbonyl-(2S)-octahydroindolylmethoxy]benzoate (700 mg, 1.8 mmol) and 5% Rh on alumina (400 mg) in EtOH (10.0 ml) and AcOH (1.0 ml) was hydrogenated at room temperature at 5 atm for 48 hr. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (7:1, v/v) as eluent to give methyl cis-4-[1-tert-butoxycarbonyl-(2S)-octahydro indolylmethoxy]cyclohexanecarboxylate (600 mg, 85%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.10-2.35 (m, 20H), 1.44 (s, 9H), 3.45-3.90 (m, 5H), 3.80 (s, 3H).

reactant | methyl 4-[1-tert-butoxycarbonyl-(2S)-octahydroindolylmethoxy]benzoate | 1.8 mmol, 700 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)COC1=CC=C(C(=O)OC)C=C1 | C22H31NO5
solvent | EtOH | 10.0 ml | CCO | C2H6O
solvent | AcOH | 1.0 ml | CC(=O)O | C2H4O2
catalyst | Rh on alumina | 400 mg | [Rh] | Rh
product | methyl cis-4-[1-tert-butoxycarbonyl-(2S)-octahydro indolylmethoxy]cyclohexanecarboxylate | 600 mg, 85% | C(C)(C)(C)OC(=O)N1[C@@H](CC2CCCCC12)CO[C@H]1CC[C@H](CC1)C(=O)OC | C22H37NO5
